US07595397B2
(4-Methyl-3-phenyl-piperazin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone
This compound could be made in the following manner: 100 mg of (3-phenyl-piperazin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone would be dissolved in 3 mL of acetonitrile, 2 equiv. of N,N-diisopropylethylamine would be added followed by 1.1 equiv. of iodomethane. The reaction would be heated to 80° C. overnight. After cooling to room temperature, the reaction would be diluted with dichloromethane and washed with 1M aqueous sodium hydroxide solution, dried over sodium sulfate and concentrated in vacuo. The crude residue would be purified by column chromatography to afford the title compound.

reactant | (3-phenyl-piperazin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone | 100 mg | C1(=CC=CC=C1)C1CN(CCN1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C24H21F3N2O
reactant | N,N-diisopropylethylamine | 2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodomethane | 1.1 equiv. | IC | CH3I
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-Methyl-3-phenyl-piperazin-1-yl)-(2′-trifluoromethyl-biphenyl-4-yl)-methanone | CN1C(CN(CC1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C25H23F3N2O
